inverter example circuit for control language tutorial
* file inv-example.cir

* the power supply 2.0 V
Vcc cc 0 2

* the input signal for dc and tran simulation
Vin in 0 dc 0 pulse (0 2 95n 2n 2n 90n 180n)

* the circuit
Mn1 out in 0 0 nm W=2u L=0.18u
Mp1 out in cc cc pm W=4u L=0.18u

* model and model parameters (we use the built-in default parameters for BSIM4)
.model nm nmos level=14 version=4.8.1
.model pm pmos level=14 version=4.8.1

* simulation commands
.save v(out) v(in) i(vcc)
.tran 100p 50n
* control language script
.control                                    ; begin of control section
unset askquit
set filetype=ascii
run                                         ; run the .tran command
write pp v(out) v(in) i(vcc)
.endc                                       ; end of control section

.end
